US07846929B2
3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid (60 mg) was reacted with 1-methylpiperizine via General Procedure B to yield 3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenyl)(4-methylpiperazin-1-yl)methanone. Crude 3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)phenyl)(4-methylpiperazin-1-yl)methanone (71 mg) was coupled to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole 7 via General Procedure A to yield 22.4 mg of 339. MS (Q1) 540.1 (M)+

reactant | 3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid | 60 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C(=O)O)C=CC2)N2CCOCC2 | C17H14ClN3O3S
reactant | 1-methylpiperizine | CN1CCNCC1 | C5H12N2
product | (4-methylpiperazin-1-yl)methanone | CN1CCN(CC1)C=O | C6H12N2O
